Name:  ___    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
PCI with ___ 1 to the mid RCA

 
History of Present Illness:
___ presented to ___ with chest pain that awoke him from 
sleep early AM on ___. His first episode of chest pain was 
approximately 3 weeks ago that felt like a weight on his chest, 
he took 2 Aspirin and went back to sleep, he believes the pain 
lasted approximately ___ minutes. On the morning of admission, 
he was awakened by chest pain that radiated to his left shoulder 
and jaw, he took 2 Aspirin and went to the ___. He was 
transferred to ___ for further workup and had a positive 
ETT.  
 
Past Medical History:
Hypertension
Obstructive Sleep Apnea (not using CPAP)
GI Bleed
GERD
LLE vein stripping for varicosities

 
Social History:
___
Family History:
 FAMILY HISTORY: Mother: Lived to be ___. Father: had angina. 
Died at age ___. Has 2 children. Daughter has hypertension and 
DM, son has hypertension  
 
Physical Exam:
Admission Physical Exam:  
 Gen: ___ yr old man in NAD. Resting comfortably with no CP,SOB, 
palpitations. He denies orthopnea and PND  
 Neuro: Alert and oriented, no focal deficits or asymmetries 
noted  
 Neck/JVP: Unable to appreciate JVD. No use of accessory muscles 
 
 CV: S1S2 regular, no MRG  
 Chest: Decreased bases, otherwise CTAB. No crackles or wheezing 
 
 ABD: obese, non-tender, BS+. No anasarca  
 Extr: Radial pulse: 2+ ___: 2+ 1+ pitting edema on shins 
above mid shin/sock line  
 Access sites: PIV  
 Skin: Warm and dry. No lesions or rashes  

Discharge Physical Exam:
 VS 98.1 HR 77 RR 18 BP 128/82 93% RA
 Weight 90.8 kg
 Gen: no c/o discomfort, denies CP, SOB, N/V, ready to work with 
___
 Neuro: A&O x 3, no focal deficits, grossly N/V/I
 HEENT: thick neck, no elevation of JVP
 CV: RRR no m/r/g
 Chest: CTAB
 Abd: obese, soft, NT
 Extr: Radial pulse 2+; ___ 1+, no edema, warm and perfused 
b/l
 Skin: R wrist site (TR band) c/d/I, no erythema or evidence of 
bleed, hematoma or bruit; R groin angioseal with old blood under 
dressing, peeling at edges, area soft, NT, no bruit, no active 
bleeding or hematoma noted

 
Pertinent Results:
ADMISSION LABS:
___ 09:10AM BLOOD WBC-5.2 RBC-4.20* Hgb-13.3* Hct-42.4 
MCV-101* MCH-31.7 MCHC-31.4* RDW-13.6 RDWSD-50.7* Plt ___
___ 09:10AM BLOOD Neuts-54.0 ___ Monos-8.3 Eos-2.3 
Baso-0.6 Im ___ AbsNeut-2.81 AbsLymp-1.79 AbsMono-0.43 
AbsEos-0.12 AbsBaso-0.03
___ 09:10AM BLOOD Glucose-90 UreaN-24* Creat-0.9 Na-138 
K-5.0 Cl-99 HCO3-27 AnGap-17
___ 09:10AM BLOOD Lipase-17
___ 09:10AM BLOOD Albumin-4.2

LFTs, CHOLESTEROL:
___ 09:10AM BLOOD ALT-23 AST-22 AlkPhos-55 TotBili-0.3
___ 09:10AM BLOOD Lipase-17
___ 07:10AM BLOOD Triglyc-165* HDL-48 CHOL/HD-3.8 
LDLcalc-102
___ 07:10AM BLOOD Triglyc-165* HDL-48 CHOL/HD-3.8 
LDLcalc-102

CARDIAC ENZYMES:
___ 06:45AM BLOOD CK-MB-2 cTropnT-<0.01
___ 09:39PM BLOOD cTropnT-<0.01
___ 01:49PM BLOOD cTropnT-<0.01
___ 07:10AM BLOOD cTropnT-<0.01
___ 09:10AM BLOOD proBNP-14

DISCHARGE LABS:
___ 06:45AM BLOOD Hct-38.1* Plt ___
___ 06:45AM BLOOD UreaN-22* Creat-0.9 Na-136 K-4.3

CATH REPORT:
Coronary Anatomy
Dominance: Right
 * Left Main Coronary Artery
The LMCA is without obstructive disease.
* Left Anterior Descending
The LAD is without obstructive disease.
The ___ Diagonal is without obstructive disease.
* Circumflex
The Circumflex is without obstructive disease.
The ___ Marginal is without obstructive disease.
* Right Coronary Artery
The RCA is 90% narrowed in its mid portion.
The Right PDA is without obstructive disease.

Interventional Details
 JR4 guide, pro woater wire used to easily cross lesion whcih 
was direct stented with a 3.25 mm DES to 18 atm with no residual 
stenosis and good flow.

Impressions:
1. Single vessel disease with DES placed in mid RCA.

Recommendations
1. Need for compliance with one year of DAPT stressed.
2. Aggressive risk factor modification.

ECHO ___:
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). There 
is no ventricular septal defect. Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Trivial mitral regurgitation is 
seen. The tricuspid valve leaflets are mildly thickened. There 
is mild pulmonary artery systolic hypertension. There is no 
pericardial effusion.   
 
Brief Hospital Course:
The patient had an unremarkable course and remained chest pain 
free throughout his stay.  He had no EKG changes and tolerated 
his procedure well.  He underwent cath, had one DES to the mid 
RCA for 90% stenosis and will continue with Brilinta for a 
minimum of one year and ASA 81 mg Daily for life.  His 
Amlodopine was stopped due to significant lower extremity edema 
and improved by the day of discharge.  His Lisinopril was 
continued and he was started on Metoprolol 12.5 mg twice daily, 
converting to long acting Toprol 25 mg Daily at discharge.  He 
was started on Atorvastatin as well. He worked with Physical 
Therapy and had an echocardiogram and was cleared for discharge 
on ___. 

He has noted and significant untreated obstructive sleep apnea 
and a significant weight gain.  He desaturates to 64 to 70% 
without oxygen and was counseled on following up with his PCP 
and sleep study as he had stopped his CPAP several years ago 
after weight loss.  He has been counseled on the high risk of 
arrhythmias with OSA and plans to follow up on this issue early 
while he is working on weight loss.

Appointments have been scheduled with his cardiologist, Dr. 
___, as well as his PCP prior to discharge.  

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. melatonin 3 mg oral QHS:PRN 
5. Tylenol ___ Extra Strength (diphenhydrAMINE-acetaminophen) 
___ mg oral QHS:PRN 
6. Omeprazole 20 mg PO QHS:PRN heartburn 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
continue for life  
2.  Atorvastatin 80 mg PO QPM 
Follow up with Dr ___ ensure your liver enzymes are 
checked in 6 weeks  
3.  Metoprolol Succinate XL 25 mg PO DAILY 
Hold for SBP less than 100 or HR less than 55  
4.  TiCAGRELOR 90 mg PO BID 
Continue for min of one year. Do not stop unless advised by Dr. 
___  
5.  Lisinopril 20 mg PO DAILY  
6.  melatonin 3 mg oral QHS:PRN  
7.  Multivitamins 1 TAB PO DAILY  
8.  Omeprazole 20 mg PO QHS:PRN heartburn  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unstable angina, NSTEMI Type II

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for unstable angina at rest and a positive 
exercise stress test with angina symptoms but no elevation in 
cardiac enzymes or EKG changes. You were transferred from ___ 
___ for further evaluation and cardiac catheterization. You 
underwent a catheterization on ___ and found to have 90% 
stenosis in your mid right coronary artery and a drug eluding 
stent (DES) was placed. You were started on Brilinta and a baby 
Aspirin. You will need to continue Brilinta twice daily for a 
minimum of one year and continue your baby Aspirin for life.  
Both medications should not be stopped unless you are instructed 
to do so by your Cardiologist. Doing so puts you at risk for a 
thrombosis or clot in your stent and a life threatening heart 
attack. You were also started on a statin medication for your 
coronary artery disease called Atorvastatin, as well as a new 
medication called Toprol, which is a beta blocker. Your 
Amlodopine was discontinued as the Toprol helps your heart to 
beat more effectively and is also helps somewhat to control your 
blood pressure.  At your follow up with Dr. ___ will assess 
if you need any other agents for blood pressure control. We 
recommend you take your blood pressure and record that and your 
heart rate in the morning and evening before you take your 
medications and keep this information logged.  This should be 
shared with Dr. ___ at your appointment.  You will continue 
your Lisinopril as before. Prior to your discharge, an 
echocardiogram was performed and you worked with Physical 
Therapy. We have provided a prescription for Cardiac Rehab, 
which you should review with Dr. ___ at your appointment. You 
should see Dr. ___ in ___ days in follow up, and your PCP 
___ 30 days. At your visit with Dr. ___ will indicate 
when you may start a cardiac rehab program. Do not perform any 
strenuous exercise. It is okay to walk. Instructions for skin 
care and weight bearing restrictions are provided separately to 
this discharge summary.

While in the hospital, you were noted to have significant oxygen 
desaturations while sleeping to 64%. Oxygen was used and you 
indicated you had a prior history of obstructive sleep apnea and 
stopped using CPAP because you had weight loss but have gained 
back weight. We recommend you see your PCP and get an up to date 
sleep study and restart using your CPAP until you have lost 
weight again and there is no indication of any sleep apnea. 
Having sleep apnea and dropping your oxygen to low levels for 
sustained periods puts you at risk of arrhythmias and cardiac 
events. 

 
Followup Instructions:
___